US04224321
2,3,4,5,11,15b-hexahydro-2,8-dimethyl-1H-dibenz[3,4:6,7]azepino[1,2-a](1,4)diazepine;
1,2,3,4,5,15b-hexahydro-2,8-dimethyl-1,4-diazepino[1,2-d]dibenz[b,f](1,4)oxazepine, (oil) Rf in toluene:ethanol (8:2)=0.42 on SiO2 ;

reactant | 1,2,3,4,5,15b-hexahydro-2,8-dimethyl-1,4-diazepino[1,2-d]dibenz[b,f](1,4)oxazepine | CN1CC2N(C3=C(OC4=C2C=CC=C4)C=CC(=C3)C)CCC1 | C19H22N2O
reactant | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
product | 2,3,4,5,11,15b-hexahydro-2,8-dimethyl-1H-dibenz[3,4:6,7]azepino[1,2-a](1,4)diazepine | CN1CC2N(CCC1)C1=C(CC3=C2C=CC=C3)C=CC(=C1)C | C20H24N2
